US06103750
To a suspension wherein 5-amino-1-(6-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran-5-yl)pyrazole (391 mg, 1.27 mmol), sodium trifluromethanesulfinate (397 mg, 2.54 mmol) and dimethylamine tosylate (690 mg, 3.17 mmol) are in toluene (4 ml), thionyl chloride (302 mg, 2.54 mmol) was added dropwise under ice cooling over a period of about 10 minutes and then stirred under heating at 50 to 60° C. for 14 hours. After allowing to cool, the reaction solution was poured into water, extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was subjected to silica gel column chromatography to give 200 mg of 5-amino-1-(6-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran-5-yl)-4-trifluoromethylsulfenylpyrazole.

reactant | 5-amino-1-(6-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran-5-yl)pyrazole | 1.27 mmol, 391 mg | NC1=CC=NN1C=1C=C2C(OC(C2=CC1Cl)(F)F)(F)F | C11H6ClF4N3O
reactant | sodium trifluromethanesulfinate | 2.54 mmol, 397 mg | FC(S(=O)[O-])(F)F.[Na+]
reactant | dimethylamine tosylate | 3.17 mmol, 690 mg | S(=O)(=O)(O)C1=CC=C(C)C=C1.CNC
reactant | thionyl chloride | 2.54 mmol, 302 mg | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-amino-1-(6-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran-5-yl)-4-trifluoromethylsulfenylpyrazole | 200 mg | NC1=C(C=NN1C=1C=C2C(OC(C2=CC1Cl)(F)F)(F)F)SC(F)(F)F | C12H5ClF7N3OS
